US07183278B1
3-Hydroxy-6-methoxy-N-cyclohexylpicolinamide
The procedure of Example 29 was repeated, except that 3-benzyloxy-4-methoxypicolinic acid was changed to 3-benzyloxy-6-methoxypicolinic acid and 4-(4′-methoxyphenoxy)aniline was changed to cyclohexylamine. Thus, the title compound was prepared.

reactant | 3-benzyloxy-4-methoxypicolinic acid | C(C1=CC=CC=C1)OC=1C(=NC=CC1OC)C(=O)O | C14H13NO4
reactant | 3-benzyloxy-6-methoxypicolinic acid | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)OC)C(=O)O | C14H13NO4
reactant | 4-(4′-methoxyphenoxy)aniline | COC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C13H13NO2
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 3-Hydroxy-6-methoxy-N-cyclohexylpicolinamide | OC=1C(=NC(=CC1)OC)C(=O)NC1CCCCC1 | C13H18N2O3
